US06962917B2
1,2,4-Trifluoro-5-nitrobenzene (10 g, 56.5 mmol) was dissolved in methanol, cooled in ice and treated with 25% sodium methoxide in methanol. After being stirred at room temperature for 6 hours the mixture was diluted with water and extracted with ethyl acetate to give 1,4-difluoro-2-methoxy-5-nitrobenzene (10.1 g). This was dissolved in ethanol (400 ml) and hydrogenated over 10% palladium on carbon to give the title compound (7.8 g).

reactant | 1,2,4-Trifluoro-5-nitrobenzene | 56.5 mmol, 10 g | FC1=C(C=C(C(=C1)[N+](=O)[O-])F)F | C6H2F3NO2
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | CO | CH4O
solvent | water | O | H2O
product | 1,4-difluoro-2-methoxy-5-nitrobenzene | 10.1 g | FC1=C(C=C(C(=C1)[N+](=O)[O-])F)OC | C7H5F2NO3
